US04128658
1-(Isothiocyanato)-2-methoxyethane (1.17 g) and 2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethanamine (2.14 g) in acetonitrile were stood overnight. Solvent was removed and the residual oil chromatographed (silica/methanol) to give N-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]-N'-(2-methoxyethyl)thiourea as a pale oil Rf 0.45. Analysis Found: C, 50.64; H, 7.51; N, 12.58. C14H25N3O2S2 requires: C, 50.75; H, 7.55; N, 12.69%.

reactant | 1-(Isothiocyanato)-2-methoxyethane | 1.17 g | N(=C=S)CCOC | C4H7NOS
reactant | 2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethanamine | 2.14 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]-N'-(2-methoxyethyl)thiourea | CN(C)CC1=CC=C(O1)CSCCNC(=S)NCCOC | C14H25N3O2S2
